US07214673B2
10-((S)-3-[2-(2-Trifluoromethyl-phenyl)-ethyl]-4-methyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine 10-((S)-3-[2-(2-trifluromethyl-phenyl)-ethyl]-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (365.7 mg, 0.78 mmol), formaldehyde (69.4 μL, 0.85 mmol, 37% in water), and 1,2-dichloroethane (30.0 ml). Stir the mixture at ambient temperature for 5 minutes and then add sodium triacetoxyborohydride (247.0 mg, 1.17 mmol). After stirring for 30 minutes at ambient temperature, quench the reaction with saturated sodium bicarbonate. Remove the organic portion, extract the aqueous with dichloromethane and combine, wash (brine), dry (sodium sulfate), and reduce the extracts to residue. Purify the residue on silica gel using dichloromethane/methanol (95:5) to give 304.3 mg (81%) of the title compound as a tan foam: mp 68°, dec; mass spectrum (ion spray): m/z=485.2 (M+1).

reactant | 10-((S)-3-[2-(2-trifluromethyl-phenyl)-ethyl]-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.78 mmol, 365.7 mg | FC(C1=C(C=CC=C1)CC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2)(F)F | C25H25F3N4S
reactant | formaldehyde | 0.85 mmol, 69.4 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.17 mmol, 247.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 30.0 ml | ClCCCl | C2H4Cl2
product | 10-((S)-3-[2-(2-Trifluoromethyl-phenyl)-ethyl]-4-methyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 304.3 mg, 81% | FC(C1=C(C=CC=C1)CC[C@H]1CN(CCN1C)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2)(F)F | C26H27F3N4S
